US07572820B2
B. N-(4-Bromo-3-chloro-2-methylphenyl)acetamide
A suspension of N-(3-chloro-2-methylphenyl)acetamide (11.12 g, 60.63 mmol) in acetic acid (80 mL) was cooled to ca. 10° C. and then treated with bromine (9.28 mL, 181.11 mmol). The resulting mixture was stirred at rt for 2 h. The cooled solution was then poured into water (100 mL). The resulting solid was collected via filtration and rinsed with water. Thorough drying afforded 15.83 g of a pale yellow solid: MS (APCl) m/z 264 (M+2 isotope).

reactant | N-(3-chloro-2-methylphenyl)acetamide | 60.63 mmol, 11.12 g | ClC=1C(=C(C=CC1)NC(C)=O)C | C9H10ClNO
reactant | bromine | 181.11 mmol, 9.28 mL | BrBr | Br2
reactant | water | 100 mL | O | H2O
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | N-(4-Bromo-3-chloro-2-methylphenyl)acetamide | 15.83 g | BrC1=C(C(=C(C=C1)NC(C)=O)C)Cl | C9H9BrClNO
